US06514996B2
(Step A) 4-Bromo-7-methoxy-1,3-benzodioxole (Compound IIbj-a)
3-Bromo-6-methoxycatechol (23.4 g) was dissolved in DMF (150 ml), and dibromomethane (15.4 ml) and potassium fluoride (31.1 g) were added thereto, followed by heating at 110° C. for 6 hours with stirring. After being allowed to stand for cooling, water was added to the mixture followed by extraction with ether. The organic layer was washed with an aqueous solution of sodium hydroxide, with water, and with a saturated saline, and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=50/1) to give Compound IIbj-a (5.6 g, 40%) as a white solid.

reactant | 3-Bromo-6-methoxycatechol | 23.4 g | BrC1=C(C(O)=C(C=C1)OC)O | C7H7BrO3
reactant | dibromomethane | 15.4 ml | BrCBr | CH2Br2
reactant | potassium fluoride | 31.1 g | [F-].[K+]
reactant | water | O | H2O
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 4-Bromo-7-methoxy-1,3-benzodioxole | BrC1=CC=C(C=2OCOC21)OC | C8H7BrO3
